US05481032
The reaction of 35.8 g (0.1 mol) of 2-bromo-4-chloro-5-fluoro-3'-nitrobenzophenone in 150 g of 5% oleum with 9.7 g (0.2 mol) of 70% hydrogen peroxide solution gives a mixture (29.0 g) of 2-bromo-4-chloro-5-fluorophenol, 2-bromo-4-chloro-5-fluorobenzoic acid, 3-nitrophenol and 3-nitrobenzoic acid (proportions in GC area-%: 14, 35, 36, 15) after dilution (300 g of water), refluxing for 4 h and extraction with methyl tert-butyl ether after removal of the solvent.

reactant | 2-bromo-4-chloro-5-fluoro-3'-nitrobenzophenone | 0.1 mol, 35.8 g | BrC1=C(C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=C(C(=C1)Cl)F | C13H6BrClFNO3
reactant | hydrogen peroxide | 0.2 mol, 9.7 g | OO | H2O2
reactant | 2-bromo-4-chloro-5-fluorobenzoic acid | BrC1=C(C(=O)O)C=C(C(=C1)Cl)F | C7H3BrClFO2
reactant | 3-nitrophenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 3-nitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
solvent | oleum | 150 g | OS(=O)(=O)O.O=S(=O)=O
solvent | water | 300 g | O | H2O
product | 2-bromo-4-chloro-5-fluorophenol | 29.0 g | BrC1=C(C=C(C(=C1)Cl)F)O | C6H3BrClFO
